US07989438B2
Step 2: methyl 3-cyclohexyl-2-[4-methoxy-2-(methoxymethoxy)phenyl]-1H-indole-6-carboxylate
A mixture of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (prepared as described in International patent application WO2004087714, from commercially available methyl indole-6-carboxylate), 2-[4-methoxy-2-(methoxymethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2 eq) and 2 M Na2CO3 (aq) (6 eq) in dioxane (0.15 M) was prepared. Then the mixture was degassed with nitrogen and bis(triphenylphosphine)palladium (II) chloride (0.2 eq) was added. The resulting mixture was immersed in a pre-heated oil bath at 110° C. for 2 h. The mixture was cooled, diluted with EtOAc, washed with 1 N HCl (aq), brine, dried (Na2SO4), filtered and the solvent removed in vacuo. The crude was purified by automated FC (PE/EtOAc 9:1) to afford the product (93%). (ES+) m/z 424 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | 2-[4-methoxy-2-(methoxymethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2 eq | COC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)OCOC | C15H23BO5
reactant | Na2CO3 | 2 M, 6 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 0.15 M | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.2 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | methyl 3-cyclohexyl-2-[4-methoxy-2-(methoxymethoxy)phenyl]-1H-indole-6-carboxylate | 93% | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=C(C=C1)OC)OCOC | C25H29NO5
